US06127333
Step B Boc-4-aminomethylbicyclo-[2.2.2]octane carboxylic acid
A sample of 8.79 g (40.0 mmol) of 4-carboxybicyclo[2.2.2]octanemethylamine hydrochloride salt suspended in 100 ml each of THF and H2O was treated with 20.0 ml (14.6 g=3.3 equiv.) of TEA, followed by 11.8 g (47.9 mmol) of BOC-ON reagent. All went into solution, and after stirring 24 hr the solution was concentrated in vacuo to a volume of about 50 ml and partitioned between 100 ml of ether and 300 ml of H2O. After addition of about 2 ml of TEA the aqueous layer was washed with ether (3×), each ether in turn washed with H2O, and the combined aqueous layer was acidified with 5% KHSO4 to give the title compound as a white solid, isolated by filtration and drying in vacuo.

reactant | 4-carboxybicyclo[2.2.2]octanemethylamine hydrochloride salt | 40.0 mmol, 8.79 g | Cl.C(=O)(O)C12CCC(CC1)(CC2)CN
reactant | H2O | O | H2O
reactant | BOC-ON | 47.9 mmol, 11.8 g | CC(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | Boc-4-aminomethylbicyclo-[2.2.2]octane carboxylic acid | C(=O)(OC(C)(C)C)C1C2(CCC(C1)(CC2)CN)C(=O)O | C15H25NO4
